US05236955
5-Oxatridecanoic acid (O5, C13)--n-Octanol [CH3 (CH2)7OH, 8.0 g, 61.43 mmol] and 4-bromobutyronitrile [Br(CH2)3CN, 9.09 g, 61.43 mmol] were added to a solution of NaOH (50% aqueous, 50 mL), benzene (50 mL) and Bu4NHSO4 (2.61 g, 7.68 mmol). The mixture was stirred for 3 days at room temp. Water (50 mL) was added and then the mixture was extracted with ethyl acetate (4×60 mL), washed with water (2×40 mL) dried over Na2SO4 and distilled (Kugelrohr) to yield 5-oxatridecanonitrile (1.90 g, 16%) as a colorless oil that was used directly in the subsequent reaction.

reactant | 5-Oxatridecanoic acid | C(CCCOCCCCCCCC)(=O)O | C12H24O3
reactant | n-Octanol | 61.43 mmol, 8.0 g | C(CCCCCCC)O | C8H18O
reactant | 4-bromobutyronitrile | 61.43 mmol, 9.09 g | BrCCCC#N | C4H6BrN
reactant | NaOH | 50 mL | [OH-].[Na+]
catalyst | Bu4NHSO4 | 7.68 mmol, 2.61 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | Water | 50 mL | O | H2O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5-oxatridecanonitrile | 1.90 g, 16% | C(CCCOCCCCCCCC)#N | C12H23NO
